US09079889B2
Following Method 9, (1R,2R,4R,6S)-4-(3-aminopyridin-4-yl)-2-(tert-butoxycarbonylamino)-6-methylcyclohexyl acetate and 6-bromo-5-fluoropicolinic acid were coupled and following addition of EtOAc and washing with H2O, NaCl(sat.) and drying over MgSO4, (1R,2R,4R,6S)-4-(3-(6-bromo-5-fluoropicolinamido)pyridin-4-yl)-2-(tert-butoxycarbonylamino)-6-methylcyclohexyl acetate was obtained. LCMS (m/z): 567.2 (MH+), Rt=0.82 min.

reactant | (1R,2R,4R,6S)-4-(3-aminopyridin-4-yl)-2-(tert-butoxycarbonylamino)-6-methylcyclohexyl acetate | C(C)(=O)O[C@H]1[C@@H](C[C@@H](C[C@@H]1C)C1=C(C=NC=C1)N)NC(=O)OC(C)(C)C | C19H29N3O4
reactant | 6-bromo-5-fluoropicolinic acid | BrC1=C(C=CC(=N1)C(=O)O)F | C6H3BrFNO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (1R,2R,4R,6S)-4-(3-(6-bromo-5-fluoropicolinamido)pyridin-4-yl)-2-(tert-butoxycarbonylamino)-6-methylcyclohexyl acetate | C(C)(=O)O[C@H]1[C@@H](C[C@@H](C[C@@H]1C)C1=C(C=NC=C1)NC(C1=NC(=C(C=C1)F)Br)=O)NC(=O)OC(C)(C)C | C25H30BrFN4O5
